US08283353B2
4′-({4-[trans-4-(oxiran-2-ylmethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-({5-oxo-4-[4-(prop-2-en-1-yloxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (1.1 g), m-chloroperbenzoic acid (1.8 g) and acetonitrile (10 mL) was stirred at 50° C. for 15 hr. Saturated aqueous sodium hydrogen carbonate solution and aqueous sodium thiosulfate solution were added to the reaction mixture, and the mixture was stirred for 30 min. The solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.25 g, 20%).

reactant | 4′-({5-oxo-4-[4-(prop-2-en-1-yloxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 1.1 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)OCC=C | C31H33N5O2
reactant | m-chloroperbenzoic acid | 1.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4′-({4-[trans-4-(oxiran-2-ylmethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.25 g, 20% | O1C(C1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C31H33N5O3
